US08609727B2
4-[(4E)-3-(4-Carboxybenzyl)-5-{2-[4-(4-fluorophenoxy)butoxy]phenyl}pent-4-en-1-yl]benzoic Acid
A solution of 460 mg (0.80 mmol) of methyl 4-[(4E)-3-(4-cyanobenzyl)-5-{2-[4-(4-fluorophenoxy)butoxy]phenyl}pent-4-en-1-yl]benzoate in 15 ml of 1-propanol and 2 ml of water is mixed with 1340 mg (23.89 mmol) of potassium hydroxide and stirred at 110° C. for 12 h. After cooling, the mixture is acidified with 1 M hydrochloric acid, and the crystals which have separated out are filtered off with suction, washed several times with water and dried. 325 mg (0.52 mmol, 65% of theory, purity 93%) of the title compound are obtained.

reactant | methyl 4-[(4E)-3-(4-cyanobenzyl)-5-{2-[4-(4-fluorophenoxy)butoxy]phenyl}pent-4-en-1-yl]benzoate | 0.80 mmol, 460 mg | C(#N)C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)OCCCCOC2=CC=C(C=C2)F)C=C1 | C37H36FNO4
reactant | potassium hydroxide | 23.89 mmol, 1340 mg | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | 1-propanol | 15 ml | C(CC)O | C3H8O
solvent | water | 2 ml | O | H2O
product | 4-[(4E)-3-(4-Carboxybenzyl)-5-{2-[4-(4-fluorophenoxy)butoxy]phenyl}pent-4-en-1-yl]benzoic Acid | C(=O)(O)C1=CC=C(CC(CCC2=CC=C(C(=O)O)C=C2)\C=C\C2=C(C=CC=C2)OCCCCOC2=CC=C(C=C2)F)C=C1 | C36H35FO6
